US07875639B2
5-(4-fluoro-benzyl)-3-(2-methoxyethyl)-3H-thiazol-2-ylidene-amine
A mixture of 5-(4-fluoro-benzyl)-thiazol-2-ylamine (330 mg, 1.59 mmol) and 2-bromoethyl methyl ether (0.50 mL, 5.34 mmol) was heated to 85° C. and stirred for 12 hours. The mixture was cooled to ambient temperature, diluted with 20 mL of ethyl acetate and washed with saturated aqueous NaHCO3. The layers were separated and the aqueous phase was extracted with 2×20 mL ethyl acetate and the combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated. Purification by column chromatography (SiO2, 50% ethyl acetate in dichloromethane containing 0.5% Et3N) afforded 342 mg of the title compound: MS (LC/MS) m/z 267 (M+H)+.

reactant | 5-(4-fluoro-benzyl)-thiazol-2-ylamine | 1.59 mmol, 330 mg | FC1=CC=C(CC2=CN=C(S2)N)C=C1 | C10H9FN2S
reactant | 2-bromoethyl methyl ether | 5.34 mmol, 0.50 mL | COCCBr | C3H7BrO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-(4-fluoro-benzyl)-3-(2-methoxyethyl)-3H-thiazol-2-ylidene-amine | 342 mg | FC1=CC=C(CC2=CN(C(S2)=N)CCOC)C=C1 | C13H15FN2OS
